US05888421
Step 1.1 3-Fluoroacetanilide.
A solution of acetic anhydride (30.30 g, 0.297 mol) in glacial acetic acid (30 ml) is added to stirred 3-fluoroaniline (30.0 g, 0.27 mol). The resulting stirred mixture is heated under reflux for 20 minutes and poured into cold water (500 ml). the product is extracted into ether (×2) and the combined ethereal extracts are washed with water and dried (MgSO4). The solvent is removed in vacuo and the residue is recrystallized from aqueous acetic acid to yield colourless crystals with a yield of 28.90 g (70%).

reactant | acetic anhydride | 0.297 mol, 30.30 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-fluoroaniline | 0.27 mol, 30.0 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-Fluoroacetanilide | CC(=O)NC1=CC(=CC=C1)F | C8H8FNO
